US05633251
2,4-Bis(trifluoromethyl)benzonitrile (41.5 mmol, 10.51 g) was taken up in 100 mL acetic acid, 50 mL conc. H2SO4, and 20 mL water. This was heated to 120° C. for 3 h. The reaction was then diluted with 1 L ice water, and extracted with 2×300 mL ethyl acetate. The combined organics were washed with 2×200 mL water, dried with brine and Na2SO4, and evaporated under reduced pressure. The residue was taken up in a minimum of diethyl ether and crystallized by adding sufficient hexane to precipatate the product. The solid was collected to give 7.74 g of 2,4-bis(trifluoromethyl) phenyl acetic acid as white crystals, 68.5%. NMR 1H (CDCl3) δ 7.93 (s, 1H), 7.80 (d, J=7.9 Hz,1H), 7.55 (d, J=7.9 Hz, 1H), 3.94 (s, 2H).

reactant | 2,4-Bis(trifluoromethyl)benzonitrile | 41.5 mmol, 10.51 g | FC(C1=C(C#N)C=CC(=C1)C(F)(F)F)(F)F | C9H3F6N
reactant | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
reactant | water | 20 mL | O | H2O
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2,4-bis(trifluoromethyl) phenyl acetic acid | 7.74 g | FC(C1=C(C=CC(=C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
